US05631403
In a 250 ml flask, 10 g (0.05 mol) of 2-methoxy-chloroacetanilide (prepared from chloroacetyl chloride and 2-methoxyaniline) and 6 g (0.55 mol) of sodium carbonate are heated at 100° C. in a solvent mixture of 100 ml of N-methylpyrrolidone and 70 ml of water. A GC check after a reaction time of 6 hours reveals a yield of 70% of 2-methoxy-hydroxyacetanilide and 5.5% of 2-methoxydiglycolanilide.

reactant | 2-methoxy-chloroacetanilide | 0.05 mol, 10 g | COC(C(=O)NC1=CC=CC=C1)Cl | C9H10ClNO2
reactant | sodium carbonate | 0.55 mol, 6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 70 ml | O | H2O
product | 2-methoxy-hydroxyacetanilide | yield of 70% | COC(C(=O)NC1=CC=CC=C1)O | C9H11NO3
